US06136823
Synthesis of Ethyl 1-(2,4-Difluoro-5-methoxyphenyl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate
2,4-Difluoro-5-methoxyaniline monohydrobromide (780 mg) and a solution of triethylamine (328 mg) in chloroform (10 ml) were added dropwise to a solution of ethyl 3-ethoxy-2-(2',5'-difluoro-3'-methyl-4'-nitrobenzoyl)acrylate (2.0 g) in chloroform (10 ml) at 0° C. After the mixture was stirred for 10 minutes, the solvent and the like were distilled off. Anhydrous potassium carbonate (510 mg) was added to a solution of the whole amount of the residue in N,N-dimethylformamide (10 ml), and the mixture was stirred at 70° C. for 5 hours. Ethyl acetate and water were added to the reaction mixture to collect an organic layer. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off. Ethanol was added to the residue to disperse it therein, and filtration was conducted to obtain the title compound (660 mg) as a pale yellow powder.

reactant | 2,4-Difluoro-5-methoxyaniline monohydrobromide | 780 mg | Br.FC1=C(N)C=C(C(=C1)F)OC
reactant | triethylamine | 328 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-ethoxy-2-(2',5'-difluoro-3'-methyl-4'-nitrobenzoyl)acrylate | 2.0 g | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)[N+](=O)[O-])C)F)=O | C15H15F2NO6
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 1-(2,4-Difluoro-5-methoxyphenyl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 660 mg | FC1=C(C=C(C(=C1)F)OC)N1C=C(C(C2=CC(=C(C(=C12)C)[N+](=O)[O-])F)=O)C(=O)OCC | C20H15F3N2O6
